US20010044445A1
1-(4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-amine
To a cold (0° C.) mixture of 2,2,2-trifluoro-N-(4-nitrophenyl)ethanehydrazonoyl chloride (161 mg, 0.60 mmol) and 5-aminotetrazole (51 mg, 0.60 mmol) in ethanol was added triethylamine (0.180 mL, 1.27 mmol). The resulting mixture was stirred at room temperature for one hour then heated to reflux for 4 hours. The reaction mixture was cooled and poured into saturated sodium bicarbonate solution (50 mL) and then extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The crude residue was purified using flash chromatography with 50% ethyl acetate/50% hexane to afford the title compound as an oil (95 mg, 58% yield).

reactant | 2,2,2-trifluoro-N-(4-nitrophenyl)ethanehydrazonoyl chloride | 0.60 mmol, 161 mg | FC(C(=NNC1=CC=C(C=C1)[N+](=O)[O-])Cl)(F)F | C8H5ClF3N3O2
reactant | 5-aminotetrazole | 0.60 mmol, 51 mg | NC1=NN=NN1 | CH3N5
reactant | triethylamine | 1.27 mmol, 0.180 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-amine | 95 mg, 58% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1N)C(F)(F)F | C10H7F3N4O2
